US04055595
A solution of (±)-2-[4-(4-chlorophenyl)phenoxy]-3,3,3-trifluoro-2-methylpropionic acid (414 mg.), thionyl chloride (1.0 g.) and dimethylformamide (0.05 g.) in benzene (10 ml.) is heated under reflux for 1 hour. The solvent is evaporated in vacuo, and light petroleum (10 ml., b.p. 60°-80° C.) is added, and the mixture is re-evaporated. A further 10 ml. of light petroleum are added, and the mixture re-evaporated. The residue is dissolved in light petroleum, and the solution is filtered and evaporated to give (±)-2-[4-(4-chlorophenyl)-phenoxy]-3,3,3-trifluoro-2-methylpropionyl chloride (401 mg.).

reactant | (±)-2-[4-(4-chlorophenyl)phenoxy]-3,3,3-trifluoro-2-methylpropionic acid | 414 mg | ClC1=CC=C(C=C1)C1=CC=C(OC(C(=O)O)(C(F)(F)F)C)C=C1 | C16H12ClF3O3
reactant | thionyl chloride | 1.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.05 g | CN(C=O)C | C3H7NO
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | (±)-2-[4-(4-chlorophenyl)-phenoxy]-3,3,3-trifluoro-2-methylpropionyl chloride | 401 mg | ClC1=CC=C(C=C1)C1=CC=C(OC(C(=O)Cl)(C(F)(F)F)C)C=C1 | C16H11Cl2F3O2
